US08357717B2
Stage 2: (2-(4-Methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)methanol
A solution of methyl 2-(4-methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroisoquinoline-7-carboxylate (3.85 mmol, 1 equiv.) in THF (10 ml) was added dropwise to a cold suspension of LAH (7.7 mmol, 2 equiv.) in THF (30 ml), and the resulting mixture was stirred for 1 h. THF/water was added to the reaction mixture, and filtration over Celite was carried out. The filtrate was concentrated and the yellow oil so obtained was used in the following stage without further purification.

reactant | methyl 2-(4-methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroisoquinoline-7-carboxylate | 3.85 mmol, 1 equiv. | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CC2=CC(=CC=C2CC1)C(=O)OC)C | C20H23NO5S
reactant | LAH | 7.7 mmol, 2 equiv. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF water | C1CCOC1.O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (2-(4-Methoxy-2,6-dimethylphenylsulfonyl)-1,2,3,4-tetrahydroisoquinolin-7-yl)methanol | COC1=CC(=C(C(=C1)C)S(=O)(=O)N1CC2=CC(=CC=C2CC1)CO)C | C19H23NO4S
